* LOC110 Linear Optocoupler
* LOC110 Model Source: http://www.intusoft.com/nlpdf/nl38.pdf
*
*PIN 1 = INPUT CATHODE
*PIN 2 = INPUT ANODE
*PIN 3 = OUT1 COLLECTOR
*PIN 4 = OUT1 BASE
*PIN 5 = OUT2 BASE
*PIN 6 = OUT2 COLLECTOR
.SUBCKT LOC110 1 2 3 4 5 6
D1 13 1 DOPTO
.MODEL DOPTO D(N=2 RS=.7 CJO=40P IS=2.5E-12)
G1 6 5 10 0 .007
G2 3 4 8 0 .007
H1 14 0 V1 1
H2 15 0 V1 1
R4 14 10 1K
R5 15 8 1K
C1 8 0 500P
C2 10 0 500P
V1 2 13 0
.ENDS
