*Ideal transformers subcircuits.
*Design by Christophe Basso
*Adapted for LTSpice by Yuri Krivtsov
*Last modified April 2008
***************************************

.SUBCKT XFMR1 1 2 3 4 PARAMS: {RATIO}=1
RP 1 2 1MEG
E1 5 4 1 2 {RATIO}
F1 1 2 VM  {RATIO}
RS 6 3 1U
VM 5 6 
.ENDS XFMR1

.SUBCKT XFMR2 1 2 3 4 10 11 PARAMS: {RATIO1}=1 {RATIO2}=1
RP 1 2 1MEG
E1 5 4 1 2 {RATIO1}
F1 1 2 VM1 {RATIO1}
RS1 6 3 1U
VM1 5 6
E2 20 11 1 2 {RATIO2}
F2 2 1 VM2 {RATIO2}
RS2 21 10 1U
VM2 20 21 
.ENDS XFMR2

.SUBCKT XFMR-TAP 1 2 3 4 5 PARAMS: {RATIOT}=1
* RATIO is the ratio of the output voltage across each tap V(3,4) or V(4,5)
* divided by the input voltage V(1,2). The voltage gain across each tap is
* RATIO and the gain across both taps is 2*RATIO.
E1 7 8 1 2 {RATIOT}
F1 1 2 VM1 {RATIOT}
RP 1 2 1MEG
RS 6 3 1U
VM1 7 6
E2 9 5 1 2 {RATIOT} 
F2 1 2 VM2 {RATIOT}
R5 8 4 1U
VM2 9 8
.ENDS XFMR-TAP