ArctanComp
.SUBCKT COMPTR  1    2    3    
+       PARAMS:K1=62.831E3, K2=.3183, VOFF=.5

	RDI    1     2    1E6
        E1     3     0    value = {(k2*atan(K1*v(1,2)))+VOFF}

.ENDS